US05859044
1-[4-(2.2.2-Trifluoro-ethanesulfonylamino)-benzyl]-5-(2-oxo-propyl)-1H-indole-2-carboxylic Acid Ethyl Ester
To a solution of crude 1-[4-(2,2,2-trifluoro-ethanesulfonylamino)-benzyl]-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester (2.85 g, ≈5 mmol) in acetone (60 ml) was added concentrated sulfuric acid (0.6 ml). The solution was stirred at room temperature for about 45 minutes, and most of the solvent was removed under reduced pressure. The residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by flash chromatography (silica, 130 g) eluting with a gradient from 30% -ethyl acetate/hexane to 40% ethyl acetate/hexane, to give the title compound (1.48 g).

reactant | 1-[4-(2,2,2-trifluoro-ethanesulfonylamino)-benzyl]-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester | ≈5 mmol, 2.85 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC1(OCCO1)C)CC1=CC=C(C=C1)NS(=O)(=O)CC(F)(F)F | C25H27F3N2O6S
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 1-[4-(2.2.2-Trifluoro-ethanesulfonylamino)-benzyl]-5-(2-oxo-propyl)-1H-indole-2-carboxylic Acid Ethyl Ester | 1.48 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC(C)=O)CC1=CC=C(C=C1)NS(=O)(=O)CC(F)(F)F | C23H23F3N2O5S
